US03939187
12β-Hydroxy-15α-(2',4',6'-trimethylphenylsulfonyloxy)-3β-acetoxy-5β-pregnan-20-one (or other 15α-sulfonyloxy compound of this invention) is acetylated in the 12-position (m.p. 156°-157° C. under decomposition) and, by means of the lead tetraacetate method, an oxygen function is introduced into the 21-position to produce 15α-(2',4',6'-trimethylphenylsulfonyloxy)-3β,12β,21-triacetoxy-5β-pregnan-20-one, m.p. 159°-159.5° C. By splitting off the 15α-sulfonyl ester group with lithium carbonate in dimethylformamide, the corresponding Δ14 -unsaturated 21-acetoxypregnane is obtained (m.p. 123°-125° C.). After saponification of the 21-acetoxy group, the 21-hydroxy compound, viz., 21-hydroxy-3β,12β-diacetoxy-5β-pregn-14-en-20-one, m.p. 138°-139° C., is reacted with bromoacetyl bromide. The thus-obtained 3β,12β-diacetoxy-21-bromoacetoxy-5β-pregn-14-en-20-one is immediately further processed with trimethyl phosphite to the dimethyl ester of 3β,12β -diacetoxy-20-oxo-5β-pregn-14-en-21-yloxycarbonylmethanephosphoric acid (m.p. 154°-157° C.), which is cyclized by heating in the presence of dimethyl sulfoxide and potassium carbonate to the 3β,12β-diacetoxy-5β-carda-14,20(22)-dienolide (m.p. 170°-171° C.). By treatment with N-chlorosuccinimide in an acidic dioxane/water solution, the 15α-chloro-14β-hydroxy compound is obtained, yielding with tributyltin hydride in the presence of azobisisobutyronitrile, the 14β-hydroxy compound (digoxigenin 3,12-diacetate, m.p. 211.5° - 212.5° C.). After saponification with methanolic ammonia, free digoxigenin (m.p. 217°-219° C.) is obtained.

reactant | 12β-Hydroxy-15α-(2',4',6'-trimethylphenylsulfonyloxy)-3β-acetoxy-5β-pregnan-20-one | O[C@@H]1C[C@@H]2[C@]3(CC[C@@H](C[C@H]3CC[C@H]2[C@@H]2[C@H](C[C@H](C(C)=O)[C@@]12C)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)OC(C)=O)C | C32H46O7S
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | oxygen | O=O | O2
product | 15α-(2',4',6'-trimethylphenylsulfonyloxy)-3β,12β,21-triacetoxy-5β-pregnan-20-one | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)O[C@H]1C[C@H](C(COC(C)=O)=O)[C@]2([C@@H](C[C@@H]3[C@]4(CC[C@@H](C[C@H]4CC[C@H]3[C@H]12)OC(C)=O)C)OC(C)=O)C | C36H50O10S
